US04963564
3,5-Bis(phenylmethoxy)-α-[[(phenylmethyl)[6-[[6-(2-pyridinyl)hexyl]-oxy]hexyl]amino]methyl]benzenemethanol
A solution of 1-[3,5-bis(phenylmethoxy)phenyl]-2-bromoethanone (1.76 g) in dry DMF (15 ml) was added dropwise to a solution of N-[6-[[6-(2-pyridinyl)hexyl]oxy]hexyl]benzenemethanamine (1.58 g) and DEA (0.56 g) in dry DMF (15 ml) under nitrogen. The mixture was stirred at room temperature for 4.5 h, and the solvent was evaporated. Sodium borohydride (1.75 g) was added portionwise to the ice-cooled solution of the residue in ethanol (40 ml) under nitrogen and the reaction mixture was stirred at room temperature for 16 h and concentrated. The residue was partitioned between ethyl acetate (70 ml) and water (70 ml), the organic layer was washed with brine (70 ml), dried and concentrated to give an oil which was purified by FCC eluting with ethyl acetatehexane-triethylamine (25:75:1) to give the title compound as a colourless oil (2.00 g), t.l.c. (ethyl acetate-hexane (1:2)+ few drops triethylamine) Rf 0.19.

reactant | 1-[3,5-bis(phenylmethoxy)phenyl]-2-bromoethanone | 1.76 g | C1(=CC=CC=C1)COC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CBr)=O | C22H19BrO3
reactant | N-[6-[[6-(2-pyridinyl)hexyl]oxy]hexyl]benzenemethanamine | 1.58 g | N1=C(C=CC=C1)CCCCCCOCCCCCCNCC1=CC=CC=C1 | C24H36N2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3,5-Bis(phenylmethoxy)-α-[[(phenylmethyl)[6-[[6-(2-pyridinyl)hexyl]-oxy]hexyl]amino]methyl]benzenemethanol | 2.00 g | C1(=CC=CC=C1)COC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(O)CN(CCCCCCOCCCCCCC1=NC=CC=C1)CC1=CC=CC=C1 | C46H56N2O4
